US05912247
To a solution of 1,4-anhydro-L-threitol [manufactured by Aldrich Co., cf. J. Am. Chem. Soc., 74, 5336 (1952)] (7.34 g) and 2,4-dichloroquinazoline (5.00 g) in dimethylformamide (42 ml) is added gradually 60% sodium hydride (in oil) (1.92 g) with stirring under ice-cooling, and the mixture is stirred at room temperature for one hour and 10 minutes. The reaction mixture is diluted with ethyl acetate and washed with water 5 times. The ethyl acetate solution is dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure. The resulting residue is briefly purified by medium pressure liquid column chromatography [eluent, chloroform, (chloroform:methanol=200:1, v/v) ] to give an oily substance. The oily substance is dissolved in dioxane (35 ml), and the mixture is slowly added dropwise to a solution of piperazine (9.61 g) in dioxane (70 ml) with stirring at 50° C., and the mixture is stirred at the same temperature for 1.5 hour. The reaction mixture is diluted with ethyl acetate, washed with water, and dried over anhydrous magnesium sulfate. The resulting solution is evaporated to dryness under reduced pressure, and the residue is purified by medium pressure column chromatography (eluent, chloroform:methanol=10:1, 5:1, v/v) to give 4-[(3S,4S)-(4-hydroxytetrahydrofuran-3-yl)oxy]-2-(1-piperazinyl)quinazoline (2.47 g) as crystals.

reactant | 1,4-anhydro-L-threitol | 7.34 g | C1[C@H](O)[C@@H](O)CO1 | C4H8O3
reactant | 2,4-dichloroquinazoline | 5.00 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | sodium hydride | 1.92 g | [H-].[Na+]
reactant | piperazine | 9.61 g | N1CCNCC1 | C4H10N2
solvent | dimethylformamide | 42 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 4-[(3S,4S)-(4-hydroxytetrahydrofuran-3-yl)oxy]-2-(1-piperazinyl)quinazoline | 2.47 g | O[C@@H]1[C@H](COC1)OC1=NC(=NC2=CC=CC=C12)N1CCNCC1 | C16H20N4O3
